* E:\MÁSTER MPOWER\ASIGNATURAS\Máquinas Eléctricas\Alta Tensión\Trabajo\3kV-Voltage-Multiplier\Multiplicador.asc
D1 N002 N007 D
D2 0 N002 D
C1 N002 N001 {c}
V1 N001 0 SINE(0 {V} 50)
C2 N007 0 {c}
D3 N003 N008 D
D4 N007 N003 D
C3 N003 N002 {c}
C4 N008 N007 {c}
D5 N004 N009 D
D6 N008 N004 D
C5 N004 N003 {c}
C6 N009 N008 {c}
D7 N005 N010 D
D8 N009 N005 D
C7 N005 N004 {c}
C8 N010 N009 {c}
D9 N006 N011 D
D10 N010 N006 D
C9 N006 N005 {c}
C10 N011 N010 {c}
R1 N011 0 622254
R2 N011 N012 132.38Meg
R3 N012 0 90Meg
R4 N012 0 10Meg
.model D D
.lib C:\Users\Pepe\Documents\LTspiceXVII\lib\cmp\standard.dio
* .step param f 50 200 10
.tran 10
.param f=50 V=220*sqrt(2)
.param c=150u
* LOAD
* MEASUREMENT CIRCUIT
* VOLTAGE METER
.backanno
.end
